US05169860
Preparation of N-[[(4-chlorophenyl)amino]carbonyl]-lH-indole-2-sulfonamide
The procedure of Method A was followed in that -indolesulfonamide (10.2 mmol) was reacted with 4-chlorophenylisocyanate (10.2 mmol) to obtain 2.1 g of title product as a solid. The 2-indolesulfonamide was prepared by procedures well known in the art. See, e.g., European Patent Application 070698 (published Jan. 26, 1983). 1H NMR (CD3SOCD3): δ12.14 (s, 1 H), 10.82 (bs, 1 H), 9.07 (s, 1 H), 7.73 (d, J =8 Hz, 1 H), 7.56 (d, J =8 Hz, 1 H), 7.43 (d, J =9 Hz, 2 H), 7.34 (d, J =9 Hz, 2 H), 7.32 (m, H), 7.19 (m, 1 H), 7.15 (dd, J =6, 8 Hz, 1 H).

reactant | indolesulfonamide | 10.2 mmol | N1C(=CC2=CC=CC=C12)S(=O)(=O)N | C8H8N2O2S
reactant | 4-chlorophenylisocyanate | 10.2 mmol | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
product | N-[[(4-chlorophenyl)amino]carbonyl]-lH-indole-2-sulfonamide | 2.1 g | ClC1=CC=C(C=C1)NC(=O)NS(=O)(=O)C=1NC2=CC=CC=C2C1 | C15H12ClN3O3S
